US09371319B2
Preparation 129: Ethyl-6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
Prepared according to Preparation 128 using 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22) and ethylchloroformate. 1H-NMR (500 MHz, CDCl3): δ 1.38 (t, J=7.1 Hz, 3H), 3.95 (s, 3H), 4.45 (q, J=7.1 Hz, 2H), 6.56 (s, 1H), 7.62 (s, 1H), 7.63 (s, 1H), 8.12 (s. 1H), 8.53 (s, 1H).

reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | ethylchloroformate | C(C)OC(=O)Cl | C3H5ClO2
product | Ethyl-6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | C(C)OC(=O)N1C(=CC=2C=NC(=CC21)Br)C=2C=NN(C2)C | C14H13BrN4O2
